US06340759B1
(231-1) 2-Ethynylanisole
2-Iodoanisole (10.5 g) and trimethylsilylacetylene (10.3 g) were reacted in dimethylformamide (50 ml), in the presence of dichloro-bis-triphenylphosphine palladium (1.0 g), cuprous iodide (0.5 g) and triethylamine (15 ml) in nitrogen atmosphere at 50° C. for 12 hr. The resulting reaction solution was evaporated, and to the resulting residue were added ethyl acetate and water. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was dissolved in methanol (100 ml), a 5N aqueous solution of sodium hydroxide (20 ml) was added thereto, and then reacted at 60° C. for 1 hr. The reaction solution was evaporated, and to the resulting residue were added ether and water. The resulting ether layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a pale yellow oil (3.02 g, yield; 51%).

reactant | 2-Iodoanisole | 10.5 g | IC1=C(C=CC=C1)OC | C7H7IO
reactant | trimethylsilylacetylene | 10.3 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Ethynylanisole | 3.02 g, yield; 51% | C(#C)C1=C(C=CC=C1)OC | C9H8O
